US08222243B2
2,2-Dimethyl-1-[4-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-phenyl]-propan-1-one
Prepared from N-Methoxy-N-methyl-4-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-benzamide and tert-butylmagnesium bromide as described in Example 5. Chromatographed on silica gel with EtOAc/hexanes (5%) as eluant to afford product as a colorless solid (53 mg, 9%). 1H NMR (CDCl3) 1.37 (s, 9 H), 2.29 (d, J=1.3, 3 H), 7.68 (d, J=7.9, 2 H), 7.81 (d, J=8.3, 2 H). 19F NMR −63.2. LC/MS 7.42 min, [M+1]+ 312.

reactant | N-Methoxy-N-methyl-4-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-benzamide | CON(C(C1=CC=C(C=C1)C1=NOC(=C1C)C(F)(F)F)=O)C | C14H13F3N2O3
reactant | tert-butylmagnesium bromide | C(C)(C)(C)[Mg]Br
product | 2,2-Dimethyl-1-[4-(4-methyl-5-trifluoromethyl-isoxazol-3-yl)-phenyl]-propan-1-one | 53 mg, 9% | CC(C(=O)C1=CC=C(C=C1)C1=NOC(=C1C)C(F)(F)F)(C)C | C16H16F3NO2
